US08975256B2
5-Chloro-4-fluoro-2-methoxyphenylboronic acid (Reference Compound No. 17)
2-Bromo-4-chloro-5-fluoroanisole (Reference Compound No. 16-1, 239 mg, 1.00 mmol) was dissolved in mixed solvent of anhydrous toluene (2 mL) and anhydrous tetrahydrofuran (0.5 mL), 1.6M hexane solution of n-butyl lithium (750 μL, 1.20 mmol) was added thereto at −40° C., and then the reaction mixture was stirred at the same temperature for 30 minutes. Triisopropyl boronic acid (277 μL, 1.20 mmol) was added dropwise to the reaction mixture, warmed to −20° C. over 10 minutes, and then 2N aqueous HCl solution (1 mL) was added. After the reaction mixture was stirred at room temperature for 20 minutes, ethyl acetate (20 mL) and water (20 mL) were added and partitioned. The organic layer was washed with saturated brine (20 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure to give the titled reference compound (181 mg) as a colorless solid. (Yield 89%)

reactant | 2-Bromo-4-chloro-5-fluoroanisole | 1.00 mmol, 239 mg | BrC1=C(C=C(C(=C1)Cl)F)OC | C7H5BrClFO
reactant | n-butyl lithium | 1.20 mmol, 750 μL | C(CCC)[Li]
reactant | Triisopropyl boronic acid | 1.20 mmol, 277 μL | C(C)(C)OB(OC(C)C)C(C)C | C9H21BO2
reactant | HCl | 2N, 1 mL | Cl | ClH
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-4-fluoro-2-methoxyphenylboronic acid | 181 mg, Yield 89% | ClC=1C(=CC(=C(C1)B(O)O)OC)F | C7H7BClFO3
